US07214802B2
Ethyl chloroformate (1.19 mL, 12.4 mmol) in MeCN (5 mL) was added dropwise to a 1.00 g (6.21 mmol) of 5-bromo-1-methyl-1H-imidazole (Aldrich) in 30 mL of MeCN under N2. The mixture was stirred and allowed to warm to rt overnight. The mixture was concentrated and the residue was treated with 2M NaOH (100 mL) and extratcted with CH2Cl2 (3×100 mL). The combined extracts were washed with brine, dried with MgSO4, filtered, concentrated, and chromatographed (0–50% EtOAc in hexanes) to give the 5-bromo-1-methyl-1H-imidazole-2-carboxylic acid ethyl ester as a yellow oil (800 mg).

reactant | Ethyl chloroformate | 12.4 mmol, 1.19 mL | ClC(=O)OCC | C3H5ClO2
reactant | 5-bromo-1-methyl-1H-imidazole | 6.21 mmol, 1.00 g | BrC1=CN=CN1C | C4H5BrN2
solvent | MeCN | 5 mL | CC#N | C2H3N
solvent | MeCN | 30 mL | CC#N | C2H3N
product | 5-bromo-1-methyl-1H-imidazole-2-carboxylic acid ethyl ester | 800 mg | C(C)OC(=O)C=1N(C(=CN1)Br)C | C7H9BrN2O2
